US07932250B2
1-(2-Aminoethyl)-4-methyl-2,3-piperazinedione HCl salt
To a solution of 3.60 g (11.95 mmol) of 2-[2-(4-methyl-2,3-dioxo-1-piperazinyl)ethyl]phthalimide in 30 mL of ethanol was added 695 μL (14.34 mmol) of hydrazine monohydrate and the mixture was stirred at 40° C. for over night. The reaction mixture was cooled to room temperature, then, 25 mL of water and 6 mL of 6N—HCl were added to this mixture and the mixture was stirred for 5 hours at room temperature. After removed off the insoluble substances by filtration, the filtrate was concentrated and the residue was re-crystallized by 2% water-ethanol solution to give 2.12 g (85%) of the title compound.

reactant | 2-[2-(4-methyl-2,3-dioxo-1-piperazinyl)ethyl]phthalimide | 11.95 mmol, 3.60 g | CN1C(C(N(CC1)CCC12C(C(=O)NC1=O)C=CC=C2)=O)=O | C15H17N3O4
reactant | hydrazine monohydrate | 14.34 mmol, 695 μL | O.NN
reactant | water | 25 mL | O | H2O
reactant | HCl | Cl | ClH
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 1-(2-Aminoethyl)-4-methyl-2,3-piperazinedione HCl salt | 2.12 g, 85% | Cl.NCCN1C(C(N(CC1)C)=O)=O | InChI=1S/C7H13N3O2.ClH/c1-9-4-5-10(3-2-8)7(12)6(9)11;/h2-5,8H2,1H3;1H
